US06680329B2
A mixture of 2.8 g (10.0 mmol) of methyl (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-5-pyrid-4-ylpent-4-ynoate and 0.28 g of active 10% palladium-on-charcoal in 20 ml of ethanol is stirred for 3 hours at room temperature under 60 psi of hydrogen. The reaction mixture is filtered and concentrated under reduced pressure. The residue obtained is taken up in 20 ml of acetic acid and stirred for 14 hours in the presence of 0.05 g of platinum oxide, under 60 psi of hydrogen. The reaction mixture is filtered and then concentrated under reduced pressure. The residue obtained is taken up in 10 ml of tetrahydrofuran (THF) and 5 ml of water. This solution is cooled to 0° C., followed by addition of a solution of 3.4 g (40.0 mmol) of sodium hydrogen carbonate in 40 ml of water, and 1.63 ml (12.0 mmol) of benzyl chloroformate are added dropwise. The mixture is allowed to warm to room temperature and the reaction is continued for 4 hours. The reaction mixture is taken up in 200 ml of ethyl acetate and is washed twice with 100 ml of 1N hydrochloric acid solution and then with 100 ml of saturated sodium hydrogen carbonate solution and with 100 ml of saturated sodium chloride solution. The resulting solution is dried over sodium sulphate. The resulting product is filtered and concentrated. The residue obtained is purified by chromatography on a column of silica gel, eluting under pressure with a cyclohexane/ethyl acetate gradient of from 95/5 to 80/20. 3.55 g of methyl (S)-α-[[(1,1-dimethylethoxy)carbonyl]amino]-1-[(phenylmethoxy)carbonyl]piperidine-4-pentanoate are obtained in the form of a viscous oil.

reactant | methyl (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-5-pyrid-4-ylpent-4-ynoate | 10.0 mmol, 2.8 g | CC(C)(OC(=O)N[C@H](C(=O)OC)CC#CC1=CC=NC=C1)C | C16H20N2O4
reactant | hydrogen | [H][H] | H2
reactant | sodium hydrogen carbonate | 40.0 mmol, 3.4 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 12.0 mmol, 1.63 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
catalyst | platinum oxide | 0.05 g | [Pt]=O
product | methyl (S)-α-[[(1,1-dimethylethoxy)carbonyl]amino]-1-[(phenylmethoxy)carbonyl]piperidine-4-pentanoate | 3.55 g, Yield (%)=79 | CC(C)(OC(=O)N[C@H](C(=O)OC)CCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C24H36N2O6
